US07226923B2
4-Bromo-2-[4-(2-methyl-propane-2-sulfonyl)-phenyl]-2H-phthalazin-1-one
2-[4-(2-Methyl-propane-2-sulfonyl)-phenyl]-2,3-dihydro-phthalazine-1,4-dione (0.20 g, 0.56 mmol) and phosphorus oxybromide (0.48 g, 1.7 mmol) were stirred at 150° C. for 1 h. H2O (50 ml) was added after cooling to room temperature. Extraction with dichloromethane, drying of the combined organic phases over Na2SO4, evaporation of the solvent and purification of the raw product by preparative HPLC yielded the desired compound (0.06 g, 18%). 1H-NMR: (400 MHz, D6-DMSO) 8.41 (1H, d), 8.07 (1H, d), 8.03–8.10 (4H, m), 7.80 (2H, d), 1.30 (9H, s); MS (API+)=423.0 (M+H)+.

reactant | 2-[4-(2-Methyl-propane-2-sulfonyl)-phenyl]-2,3-dihydro-phthalazine-1,4-dione | 0.56 mmol, 0.20 g | CC(C)(C)S(=O)(=O)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C(N1)=O)=O | C18H18N2O4S
reactant | phosphorus oxybromide | 1.7 mmol, 0.48 g | P(=O)(Br)(Br)Br | Br3OP
solvent | H2O | 50 ml | O | H2O
product | 4-Bromo-2-[4-(2-methyl-propane-2-sulfonyl)-phenyl]-2H-phthalazin-1-one | 0.06 g, 18% | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)S(=O)(=O)C(C)(C)C | C18H17BrN2O3S
